US08278337B2
To a solution of 5-azidomethyl-1-(4-methanesulfonyl-phenyl)-1H-pyrazole (0.344 g, 1.24 mmol, 1.00 equiv) in 1,4-dioxane (5 mL) was added water (0.5 mL) and triphenylphosphine resin (0.5 g, 3 mol/g, 200-400 mesh, 1.2 equiv). The suspension was stirred overnight. Filtration and concentration afforded C-[2-(4-methanesulfonyl-phenyl)-2H-pyrazol-3-yl]-methylamine as a colorless solid.

reactant | 5-azidomethyl-1-(4-methanesulfonyl-phenyl)-1H-pyrazole | 1.24 mmol, 0.344 g, 1.00 equiv | N(=[N+]=[N-])CC1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C | C11H11N5O2S
reactant | water | 0.5 mL | O | H2O
reactant | triphenylphosphine resin | 0.5 g, 1.2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | C-[2-(4-methanesulfonyl-phenyl)-2H-pyrazol-3-yl]-methylamine | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=C1CN | C11H13N3O2S
